US04902700
Synthesis of 2-(trans-3-ethoxycarbonylmethoxystyryl)benzothiazole (compound No. 206)
To 30 ml of acetone were added 200 mg of 2-(trans-3-hydroxystyryl)benzothiazole, 0.11 ml of ethyl bromoacetate and 131 mg of potassium carbonate, and the mixture was refluxed for 4 hours. After cooled to room temperature, the mixture was extracted with ethyl ether, dried over anhydrous magnesium sulfate and then the solvent was evaporated under reduced pressure. After the crude crystals of the residue were washed with ethyl ether and n-hexane, they were dried under reduced pressure to give 207 ml (yield 77%) of the title compound.

reactant | 2-(trans-3-hydroxystyryl)benzothiazole | 200 mg | OC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C15H11NOS
reactant | ethyl bromoacetate | 0.11 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 131 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2-(trans-3-ethoxycarbonylmethoxystyryl)benzothiazole | 207 ml, yield 77% | C(C)OC(=O)COC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C19H17NO3S
